US07820673B2
To a solution of Boc-D-phenylglycine (1.3 g) and HOBt (1.2 g) in acetonitrile (30 ml) was added WSC (1.4 g), and the reaction mixture was mixed at room temperature for 15 minutes. Then, 5-methyl-2-(4-piperidinyl)-1,2-dihydro-3H-imidazo[1,5-c]imidazol-3-one (1.1 g) obtained in Reference Example 1 and triethylamine (2.1 ml) were added thereto. The reaction mixture was mixed at room temperature for 15 hours, the solvent was then distilled off under reduced pressure, and the residue was dissolved in ethyl acetate. The ethyl acetate solution was washed with an aqueous sodium hydrogen carbonate solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified with silica gel column (ethyl acetate to ethyl acetate/methanol=10/1) to obtain the title compound as colorless powder (2.1 g, 93%).

reactant | Boc-D-phenylglycine | 1.3 g | CC(C)(C)OC(=O)N[C@H](C1=CC=CC=C1)C(=O)O | C13H17NO4
reactant | HOBt | 1.2 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 1.4 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 5-methyl-2-(4-piperidinyl)-1,2-dihydro-3H-imidazo[1,5-c]imidazol-3-one | 1.1 g | CC1=NC=C2N1C(N(C2)C2CCNCC2)=O | C11H16N4O
